Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain and shortness of breath  
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ w/ hx of HTN, afib on coumadin, prostate cancer s/p 
prostatectomy, and MVP s/p severe MR who presents with abdominal 
pain and shortness of breath.

The pt reports that he has experienced progressive DOE with 
decreased exercise tolerance over the past week or so. Also with 
worsening ___ swelling in this time frame. Additionally, in the 
past 2 days, the pt now complains of dizziness and abdominal 
distention, prompting him to present to the ___ ED.

In the ED initial vitals were T 98.1, HR 65, BP 110/93, RR 18, 
O2 98% on RA.

EKG: Afib (HR 59), nml axis, nml intervals, LVH, no ischemic 
changes.
 
Labs/studies were notable for:
- proBNP ___
- TropT 0.02-> 0.01
- ALT 61, AST 44
- Chemistries wnl, Cr 1.2
- INR 3.5

CXR with mild interstitial pulmonary edema and probable trace 
bilateral pleural effusions.

CT A&P without acute abnormality, findings indicative of 
congestive hepatopathy.

Patient was given 20mg IV Lasix. He was admitted to the 
cardiology service for further management. 

On the floor the pt endorsed the above history with the help of 
an RN interpreting, adding that he also has experienced some 
chest tightness when having difficulty breathing as well as 
orthopnea. Regarding weight it is unclear if he has had any 
recent gain; in fact notes that his weight was previously in the 
80kgs, but recorded weight today is in the 70kgs. Per one family 
member, he may have been intentionally dieting. 

The pt is followed by Dr. ___ in structural heart clinic. He 
was last seen in ___, with plans to defer intervention, but 
rather continue with regular cardiology follow up and 
surveillance TTEs for monitoring of his MR and HF symptoms. 

Further information regarding past medical history and 
medication regimen was difficult to attain. The pt's son and 
daughter in law were called. They were unable to provide 
additional information except that they recalled he recently had 
a positive PPD and may be on an ant-tuberculosis medication.
 
Past Medical History:
PAST MEDICAL HISTORY:  
=======================  
1. CARDIAC RISK FACTORS  
- HTN

2. CARDIAC HISTORY  
- MVP with severe MR
- Afib 

3. OTHER PAST MEDICAL HISTORY  
- Prostate cancer s/p prostatectomy
- Positive PPD
 
Social History:
___
Family History:
Father deceased at ___. "foot amputation."
Mother deceased in ___ of malnutrition.
5 children are alive and well. Two are still in ___.
No family history of cardiac disease. 
 
Physical Exam:
Admission PE:
VS: T 97.8, BP 161/86, HR 66, RR 20, O2 SAT 94% on RA  
GENERAL: Well developed, well nourished, NAD
NECK: JVP of 14 cm.  
CARDIAC: Regular rate, irregular rhythm, ___ holosystolic apical
systolic murmur
LUNGS: CTAB, no crackles or wheezes appreciated
ABDOMEN: Soft, slightly tender in RUQ, non-distended, BS+
EXTREMITIES: Warm, well perfused, 1+ pitting edema in ___
SKIN: No significant skin lesions or rashes 
PULSES: Distal pulses palpable and symmetric  

Discharge PE:
VS: 98.3, 117/70, 80, 18, 96% RA
Weight: 71.5 kg / 156.9 lb
Physical Examination:
General: Very pleasant ___ speaking man, NAD
Neuro:  alert, per daughter he is not confused, gait stable
Cardiac: Irreg irregular, ___ murmur heard best at apex, JVP 10
Lungs: LS CTA bilaterally 
Abd:  soft rounded, NT
Extremities:  WWP, trace BLE edema bilat, no bruising erythema 
or
edema over right hip/lower back
 
Pertinent Results:
Labs on Admit:
==================
___ 05:15PM BLOOD WBC-8.9 RBC-4.27* Hgb-12.9* Hct-41.2 
MCV-97 MCH-30.2 MCHC-31.3* RDW-13.9 RDWSD-48.1* Plt ___
___ 05:15PM BLOOD ___ PTT-40.0* ___
___ 05:15PM BLOOD Glucose-91 UreaN-29* Creat-1.2 Na-138 
K-4.3 Cl-104 HCO3-24 AnGap-10
___ 05:15PM BLOOD Albumin-3.9
___ 05:15PM BLOOD ALT-61* AST-44* CK(CPK)-178 AlkPhos-82 
TotBili-0.6
___ 05:22PM BLOOD Lactate-1.3
___ 05:15PM BLOOD CK-MB-5 proBNP-2351*
___ 05:15PM BLOOD cTropnT-0.02*
___ 10:40PM BLOOD cTropnT-<0.01
___ 05:15PM BLOOD Lipase-82*

Labs on Discharge:
===================
___ 05:45AM BLOOD WBC-6.0 RBC-4.30* Hgb-13.1* Hct-41.0 
MCV-95 MCH-30.5 MCHC-32.0 RDW-13.9 RDWSD-48.0* Plt ___
___ 05:45AM BLOOD UreaN-23* Creat-1.3* Na-144 K-4.1
___ 05:45AM BLOOD Mg-2.2

Results:
===================
CXR (___):
IMPRESSION:  Mild interstitial pulmonary edema and probable 
trace bilateral pleural effusions.  Mild bibasilar atelectasis. 

CT Abd and Pelvis (___):
IMPRESSION: 
1. No acute abnormality identified to account for the patient's 
symptoms.  No bowel obstruction. 
2. Colonic diverticulosis without evidence for diverticulitis. 
3. Pulmonary edema with small bilateral pleural effusions. 
4. Heterogeneous enhancement of the liver indicative of 
congestive 
hepatopathy. 
5. Findings suggestive pelvic floor dysfunction with low lying 
bladder. 
 
Brief Hospital Course:
___ w/ hx of HTN, afib on coumadin, prostate cancer s/p 
prostatectomy, and severe MR who presents with abdominal 
pain/discomfort, shortness of breath, and evidence of volume 
overload consistent w/ HF exacerbation.

CORONARIES: Normal
PUMP: EF=59%
RHYTHM: Afib
 
===============  
ACTIVE ISSUES:  
===============  
# Acute HFpEF:
Pt presenting w/ SOB, ___ edema, found to have elevated BNP, and 
imaging revealing for pulmonary edema as well as congestive 
hepatopathy all consistent with HF exacerbation. His LFTs and 
symptoms are improved today after 2 days of diuresis with 20mg 
IV Lasix. 
Last TTE ___ EF, but also w/ severe MR, now soted to be 
moderate on TTE today. No known history of CAD, with clean 
coronaries on cath in ___. The underlying cause of his HF is 
likely related to valvular dysfunction, however the cause for 
his acute exacerbation is not clear. Will continue with 
diuresis.
- Preload: transitioned to Lasix20 mg po daily
- Continue increased dose of Lisinopril 30 mg for after load 
reduction
- Strict I/Os, daily weights
- Monitor electrolytes, renal function, and LFTs

# MVP
# Severe MR
___/ known severe MVP, followed by Dr. ___ in ___ 
heart clinic. The patient has previously expressed he does not 
want surgery.   
- Continue lisinopril 30mg starting given benefit of afterload 
reduction w/ MR 
- Have notified Dr. ___ team of patient's 
admission. Will arrange follow up in clinic
- Continue to manage medically for now

# Right Lower back/sacral pain: C/O pain that starts at his 
sacrum and continues down his posterior right thigh. Pain is 
absent at rest, mod-severe with standing then slowly eases with 
ambulation. lower exam consistent with lumbosacral 
radiculopathy. Moderate to severe multilevel lumbar central 
stenosis due to disc
bulging and posterior osteophytes seen on abd/pelvis CT. Chronic 
issue per pt. No recent fall.
-Follow up with PCP as ___ for ___ referral further tx/dx
-Low dose Tylenol 
-BenGay TP to lower back/sacrum TID PRN

================  
CHRONIC ISSUES:  
================  
# Afib
- RC: No Beta Blocker at home as he is well rate controlled
- AC: Dose warfarin daily for INR goal ___
   -INR supratherapeutic at 3.5 on admission likely secondary to 
hepatic congestion.
   -Resume home dosing 1 mg WFSu, 2 mg MTThSa
   -Will have ongoing management at ___ 

# HTN: BP elevated SBP 132-161
- Will increase home lisinopril as above
- Hold HCTZ as above 

# Emergency contact:  ___ (son) ___ or 
___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Warfarin 1 mg PO DAILY16 
2. lisinopril-hydrochlorothiazide ___ mg oral DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 mg 
calcium- 200 unit oral DAILY 

 
Discharge Medications:
1.  Furosemide 20 mg PO DAILY  
2.  Lisinopril 30 mg PO DAILY  
3.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 mg 
calcium- 200 unit oral DAILY  
4.  Docusate Sodium 100 mg PO BID  
5.  Warfarin 1 mg PO 3X/WEEK (___)  
6.  Warfarin 2 mg PO 4X/WEEK (___)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Severe mitral regurgitation
Acute diastolic heart failure
Hypertension
Atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 
 
It was a pleasure taking care of you at the ___ 
___.  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You presented to hospital with shortness of breath and 
abdominal pain.

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- You were seen by the Cardiology team. Your lab work and ECG 
showed that you did not have a heart attack. 
- You were volume overloaded and given IV diuretics to take 
fluid off. 
- You had an echocardiogram that showed no significant change in 
your mitral valve
- You will go home on a fluid pill Lasix (furosemide) 20 mg 
daily. This is to help prevent the fluid from building back up.
- You are also started on lisinopril 30 mg daily for blood 
pressure 

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Take all of your medications as prescribed (listed below).  
- Follow up with your doctors as listed below  
- Continue to weigh yourself daily. If your weight goes up by 3 
lbs in 3 days or 5 lbs in 5 days, call your Cardiologist's 
office. Your weight at discharge was 71.2 kg /156.9 lb

It was a pleasure participating in your care.  

If you have any urgent questions that are related to your 
recovery from your hospitalization or are experiencing any 
symptoms that are concerning to you and you think you may need 
to return to the hospital, please call the ___ HeartLine at 
___ to speak to a cardiologist or cardiac nurse 
practitioner.  

-Your ___ Care Team  

 
Followup Instructions:
___